Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
headache, leg weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ man with a history of
hypertension, chronic leukopenia and thrombocytopenia of unclear
etiology, AAA, prostate enlargement who presents for evaluation
of headache.
The patient reports that for the past 3 weeks he has been
experiencing frequent headaches which have worsened over the 
past
3 days.  He describes the pain as a dull pain located
bitemporally.  It spreads only to the top of the head.  He rates
it as a 5 out of 10 in severity, not associated with photophobia
or phonophobia.  Over the past 3 days, he has felt more tired
overall.  He also mentions that in the past 3 days he has woken
up with a headache (the headache does not wake him from sleep
however).  He does not take any medications including
over-the-counter medications to help the headache.  He says it 
is
constant during the day and does not wax and wane.  He mentions
that he has had a similar headache 3 months ago as well as a few
years ago in which she had similar episodes where he was waking
up with headache.  He says the headache was the same location 
and
severity at that time.
Today, he again experienced headache upon wakening.  He went
about his usual day, but he felt very fatigued.  Later on, he 
was
sitting on the couch and told his daughter that his legs felt
weak.  He was able to move his legs, and never lost the ability
to do so.  It is unclear if the heaviness in the legs started
suddenly or gradually.  Either way, the symptoms were concerning
enough that the family decided to bring him in for evaluation. 
He was able to walk to the car, and walk himself into the
emergency department without assistance.  While waiting in the 
ED
after a few hours, both his headache and the leg heaviness
resolved spontaneously.

On neurologic review of systems, the patient denies
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies numbness, parasthesia. Denies loss of
sensation. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  

 
Past Medical History:
Leukopenia, thrombocytopenia
Hypertension
AAA
Prostate enlargement     
 
Social History:
___
Family History:
Daughter with migraines no family history of stroke           
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
Vitals: T: 98.4 HR 63 BP 167/68 RR 18 SaO2 99% RA 
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity.
No tenderness to palpation of the occiput or trapezius
bilaterally, no reproduction of his headache.
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: ___ somewhat limited language
evaluation however grossly normal.  Alert, oriented x 3. Able to
relate history without difficulty. Language is fluent with 
intact
repetition and comprehension.  Seemingly normal prosody. Pt was
able to name both high and low frequency objects.   Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally.  Unable to visualize optic disks. 
 V: Facial sensation intact to light touch.
 VII: Very slight left nasolabial fold flattening with symmetric
activation.  
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2+ 2    2    3   2
 R  2+ 2    2    3   2
Plantar reflex extensor bilaterally. No clonus. Pectoral spread
present bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE PHYSICAL EXAM
==========================
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity.
No tenderness to palpation of the occiput or trapezius
bilaterally, no reproduction of his headache.
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

-Mental Status: ___. Alert, oriented x 3. Able to
relate history without difficulty. Language is fluent with 
intact
repetition and comprehension.  Seemingly normal prosody. Speech 
was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally.  Unable to visualize optic disks. 
 V: Facial sensation intact to light touch.
 VII: Very slight left nasolabial fold flattening with symmetric
activation.  
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2+ 2    2    3   2
 R  2+ 2    2    3   2
Plantar reflex extensor bilaterally. No clonus. Pectoral spread
present bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.
 
Pertinent Results:
ADMISSION LABS
================
___ 07:55PM BLOOD WBC-3.2* RBC-4.54* Hgb-13.4* Hct-42.9 
MCV-95 MCH-29.5 MCHC-31.2* RDW-13.4 RDWSD-46.4* Plt ___
___ 07:55PM BLOOD Neuts-48.8 ___ Monos-8.3 Eos-2.2 
Baso-0.9 Im ___ AbsNeut-1.58* AbsLymp-1.28 AbsMono-0.27 
AbsEos-0.07 AbsBaso-0.03
___ 07:55PM BLOOD Plt ___
___ 07:55PM BLOOD Glucose-105* UreaN-19 Creat-0.8 Na-145 
K-4.7 Cl-108 HCO3-22 AnGap-15

DISCHARGE LABS
================
___ 05:00AM BLOOD WBC-3.3* RBC-4.32* Hgb-13.0* Hct-40.7 
MCV-94 MCH-30.1 MCHC-31.9* RDW-13.5 RDWSD-46.7* Plt ___
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD Glucose-84 UreaN-17 Creat-0.8 Na-141 
K-4.3 Cl-105 HCO3-28 AnGap-8*
___ 05:00AM BLOOD ALT-15 AST-16 CK(CPK)-104 AlkPhos-67 
TotBili-0.5
___ 05:00AM BLOOD Calcium-8.9 Phos-3.0 Mg-2.2 Cholest-143
___ 05:00AM BLOOD %HbA1c-5.8 eAG-120
___ 05:00AM BLOOD Triglyc-54 HDL-62 CHOL/HD-2.3 LDLcalc-70
___ 05:00AM BLOOD TSH-3.5

IMAGING:
===========
CT HEAD W/O CONTRAST Study Date of ___  
FINDINGS:  
There is no intra-axial or extra-axial hemorrhage, mass, midline 
shift, or 
acute major vascular territorial infarct. Gray-white matter 
differentiation is preserved. Ventricles and sulci are 
unremarkable.  Prominent retrocerebellar CSF space is likely 
___ cisterna magna.  Small calcific densities in the left 
parieto-occipital region and right parietal lobe are unchanged, 
potentially sequela of prior infection..  
Included paranasal sinuses and mastoids are clear besides mild 
mucosal 
thickening in the ethmoid air cells and partially visualized 
left maxillary sinus mucous retention cyst.  Skull and 
extracranial soft tissues are unremarkable. 
IMPRESSION:
No acute intracranial process. 

MR HEAD W/O CONTRAST Study Date of ___  
FINDINGS:  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction. A 5 mm focus of susceptibility in 
the left occipital lobe (11:12) corresponds to calcific density 
seen on head CT from ___. Mild prominence of the 
ventricles and sulci suggest involutional changes. Again seen is 
a prominent retrocerebellar CSF space likely representing ___ 
cisterna magna versus arachnoid cyst. Opacification of the 
partially imaged left maxillary sinuses noted.  
IMPRESSION:
No acute intracranial process. No evidence of acute infarction. 

MR ___ ___: unremarkable

 
Brief Hospital Course:
Mr. ___ is a ___ ___ speaking man with a history 
of hypertension, chronic leukopenia and thrombocytopenia of 
unclear etiology, AAA, prostate enlargement who presented with 
several hours of leg weakness at home, as well as worsening 
headaches. He was ruled out for acute stroke, and found to have 
tension headaches.

#Tension headaches:
Reports approximately 3 weeks of worsening headaches at home. 
Bitemporal, dull, no associated aura symptoms, present on 
waking, constant. These headaches are reported as chronic over 
several years with similar quality in the past. He has never 
taken medication for relief. The day of admission, he developed 
subjective bilateral leg weakness and heaviness lasting ___ 
hours in conjunction with his headache. He was able to walk 
normally. These symptoms prompted admission to the ED. There, 
both his headache and leg weakness resolved. NIHSS was 0. 
Neurologic exam was notable only for hyperreflexia in his upper 
and lower extremities. CT, MRI brain, MR ___ studies were 
unremarkable. His headaches most likely represent tension 
headaches exacerbated by stress and poor sleep. He notably 
endorses high levels of stress at home, as he has recently been 
independently performing many renovations in his home. Low 
suspicion for complex migraine given description. His leg 
weakness was transient and may represent fatigue from performing 
laborious chores at home. His stroke risk factors were notable 
for: HGA1C: 5.8, LDL: 70. Continued home aspirin 81 mg daily. 
Prior to discharge, patient was at his functional baseline 
without a headache or leg weakness. He was counseled regarding 
supportive care to help alleviate his symptoms (warm showers, 
stress relief).

#HTN:
Held home atenolol given stroke rule-out as above. Resumed at 
discharge.

#BHP:
Continued home Tamsulosin.

TRANSITIONAL ISSUES:
=====================
[] continue to monitor tension headaches, consider initiation of 
TCA if no relieve with supportive care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atenolol 25 mg PO DAILY  
3.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#tension headache
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Sr ___, 
Usted fue ___ hospital ___ y 
debildad ___. Un MRI NO demonstro ningun derrame 
cerebral, lo cual es una condition ___ las arterias ___ 
proporcionan oxigeno al cerebero son ___. El cerebro es 
___ del ___ controla y dirije todas las otras partes 
___. 

Es probable ___ el estrés ___ de ___. 
Es importante descansar, ___ 8 horas ___. 
Se puede tomar Tylenol para el dolor de ___ 
el estrés será lo más importante para ayudar con el dolor. 

No estamos cambiando sus medicamentos, ___. 

Por favor tome sus medicamentos como recetados.

Por favor ___ con Neurologia y con ___ medico de 
atención primaria.  
Ud. tiene una ___ con ___ medico de atención primaria: 
Martes, ___ at 9:20 AM
___, MD ___
___ Center ___ 1. 

Estamos arreglando una ___ con Neurologia. Si no recibe una 
llamada ___ de Neurologia en una semana, por favor 
llame a ___ para hacer una ___ en ___ semanas. 

Si experimenta alguno de ___, por favor 
___ medica llamando al 911. En particular, ___ 
un derrame cerebral puede ocurrir de nuevo, por favor ponga 
attention ___ o rapida progression de ___ :  
- Parcial o completa perdida de vision ___ occur repentinamente 
- Repentina inabilidad de producir ___ boca 
- Repentina inabilidad de comprender cuando ___ 
- Repentina debilidad en ___ 
- Repentina ___ 
- Repentina perdida de ___ 
 
Sinceramente, 
___ de Neurologia de ___
 
Followup Instructions:
___